US08227601B2
To a solution of 4-cyclopropyl-2,6-dimethylphenol (259 mg, 1.60 mmol) in THF (3 mL) at 0° C. was added NaH (64 mg, 1.60 mmol). The reaction mixture was stirred at room temperature for 30 min and a solution of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (100 mg, 0.53 mmol) in THF (2 mL) was added to the mixture. The mixture was heated at 80° C. for 16 h and cooled to room temperature. The reaction was poured into ice water and extracted with CHCl3 (3×20 mL). The combined organic solution was washed with H2O (20 mL) and brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=75:25) yielded 79 mg (48%) of 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidine as a tan solid.

reactant | 4-cyclopropyl-2,6-dimethylphenol | 1.60 mmol, 259 mg | C1(CC1)C1=CC(=C(C(=C1)C)O)C | C11H14O
reactant | NaH | 1.60 mmol, 64 mg | [H-].[Na+]
reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.53 mmol, 100 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidine | 79 mg, 48% | ClC=1N=C(C2=C(N1)NC=C2)OC2=C(C=C(C=C2C)C2CC2)C | C17H16ClN3O
